US08648103B2
(a) N-Butylglycine-t-butyl ester
N-Butylamine (5 mL, 51 mmol) was dissolved in t-butyl methyl ether (100 mL), and bromoacetic acid t-butyl ester (3.7 mL, 25 mmol) was then added to the solution. The obtained mixture was stirred at room temperature overnight. The generated precipitate was filtered, and the filtrate was then concentrated under reduced pressure, so as to obtain the title compound (4.67 g, yield: 100%) in the form of a colorless oily substance.

reactant | N-Butylamine | 51 mmol, 5 mL | C(CCC)N | C4H11N
reactant | bromoacetic acid t-butyl ester | 25 mmol, 3.7 mL | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | t-butyl methyl ether | 100 mL | COC(C)(C)C | C5H12O
product | N-Butylglycine-t-butyl ester | 4.67 g, yield: 100% | C(C)(C)(C)OC(CNCCCC)=O | C10H21NO2
